US04829071
(A) 2-Bromomethyl-6-nitrobenzofuran
N-Bromosuccinimide ("NBS") (1.11 g, 6.2 mmole) was added to a solution of 2-methyl-6-nitrobenzofuran (1.00 g, 5.65 mmole) and azobisisobutyronitrile (20 mg) in carbon tetrachloride and the mixture was heated at reflux temperature for 11/2 hours in the presence of a bright light. The solvent was then evaporated and the residue dissolved in methylene chloride, washed with water, dried (MgSO4), evaporated to dryness and purified by column chromatography on silica eluting with methylene chloride/hexane (7:3). The product-containing fractions were combined and evaporated to give the title compound, yield 1.43 g. 'H-N.m.r. clearly showed that the product contained 20% of 2-dibromomethyl-6-nitrobenzofuran, however, it was not considered necessary to remove this.

reactant | N-Bromosuccinimide | 6.2 mmole, 1.11 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-methyl-6-nitrobenzofuran | 5.65 mmole, 1.00 g | CC=1OC2=C(C1)C=CC(=C2)[N+](=O)[O-] | C9H7NO3
reactant | azobisisobutyronitrile | 20 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromomethyl-6-nitrobenzofuran | BrCC=1OC2=C(C1)C=CC(=C2)[N+](=O)[O-] | C9H6BrNO3
